US09382226B2
Step A. 5-chloro-4-fluoro-N-methyl-2-nitroaniline
To a solution of 4-chloro 2,5-difluoro nitrobenzene (2.0 g, 0.010 mol) in DMF (15 ml) was added DIPEA (4.5 ml, 0.026 mol) followed by MeNH2 (5 ml, 0.010 mol, 2M in THF) and the resulting solution was stirred at room temperature for 12 h. The reaction was quenched with H2O and extracted with EtOAc (3×30 ml). The combined organic layers were washed with brine dried over Na2SO4 and concentrated under vacuum to get crude product which was purified column chromatography to get the title compound 5-chloro-4-fluoro-N-methyl-2-nitroaniline as a yellow solid, 1H NMR (400 MHz, DMSO-d6), δ: 8.20 (s, 1H), 8.09 (d, J=10 Hz, 1H), 7.22-7.20 (d, J=6.4 Hz, 1H), 2.95 (s, 3H). MS (M+1): 205.12

reactant | 4-chloro 2,5-difluoro nitrobenzene | 0.010 mol, 2.0 g | ClC1=CC(=C(C=C1F)[N+](=O)[O-])F | C6H2ClF2NO2
reactant | DIPEA | 0.026 mol, 4.5 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | MeNH2 | 0.010 mol, 2M, 5 ml | CN | CH5N
solvent | DMF | 15 ml | CN(C)C=O | C3H7NO
product | 5-chloro-4-fluoro-N-methyl-2-nitroaniline | ClC=1C(=CC(=C(NC)C1)[N+](=O)[O-])F | C7H6ClFN2O2
